2141-04-13 07:46:00 Physician Resident Progress Note
Chief Complaint: pancreatitis
   24 Hour Events:
 BLOOD CULTURED - At [**2141-4-13**] 12:49 AM
   [**2141-4-12**]
   OSH CT and MRCP films read by radiology non-obstructing stone seen in
   ampulla of vater with duodenal inflammation, no biliary or pancreatic
   duct dilation, small area of necrosis in the pancreatic tail,
   pseudocyst in the head of the pancreas around the SMA.  Significant
   amount of abdominal ascites.
   .
   Antibiotics changed to vanc/zosyn to cover for aspiration pneumonia as
   well as necrotizing pancreatitis.
   .
   Spoke with ERCP fellow [**Doctor First Name 6721**] [**Doctor Last Name 6722**], no ERCP at this time because no
   evidence of obstruction, will follow.
   .
   Surgery consulted.  Recommend starting TPN advised against tube feeds
   even if post-ligament of treitz because think she has ileus and would
   be unlikely to tolerate.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2141-4-12**] 03:38 PM
   Piperacillin - [**2141-4-12**] 04:57 PM
   Vancomycin - [**2141-4-12**] 08:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-4-13**] 12:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-13**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.4
   HR: 99 (95 - 114) bpm
   BP: 104/58(70) {98/56(66) - 123/74(85)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,422 mL
                                                                    421 mL
   PO:
             TF:
   IVF:
                                                                  2,392 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  1,282 mL
                                                                    261 mL
   Urine:
                                                                  1,282 mL
                                                                    251 mL
   NG:
   10 mL
   Stool:
   Drains:
   Balance:
                                                                  1,140 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 463 (419 - 523) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   10.9 g/dL
   92 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   8 mg/dL
   109 mEq/L
   140 mEq/L
   30.8 %
   10.8 K/uL
        [image002.jpg]
                             [**2141-4-12**]  01:29 AM
                             [**2141-4-12**]  08:03 AM
                             [**2141-4-12**]  03:02 PM
                             [**2141-4-13**]  03:10 AM
   WBC
   10.6
   12.3
   10.8
   Hct
   35.5
   32.8
   30.8
   Plt
   187
   189
   211
   Cr
   0.5
   0.5
   0.5
   TCO2
   22
   Glucose
   92
   81
   92
   Other labs: PT / PTT / INR:15.3/31.5/1.3, ALT / AST:26/45, Alk Phos / T
   Bili:51/1.2, Amylase / Lipase:218/106, Differential-Neuts:89.1 %,
   Lymph:6.6 %, Mono:3.3 %, Eos:0.7 %, LDH:294 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR- improved overload
   Microbiology: 1+ yeast sputum
   Assessment and Plan
 .H/O ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 PNEUMONIA, OTHER
   44 F with acute pancreatitis [**2-13**] ETOH course c/b LLL pneumonia s/p
   intubation for tachypnea c/b aspiration during intubation transferred
   for further workup pancreatitis involving possible ERCP
   .
   # Acute pancreatitis- presumed [**2-13**] ETOH, had CT with concern for
   calcification in duct, had MRCP to assess for stone which was
   unrevealing, no dilated ducts or stone, the report comments on poor
   visualization of area of calcification seen on CT. Lipase 400 and
   normal LFT's.
   - NPO
   - pain control
   - CT and MRCP shows non obs stone
   - surgery rec TPN no intervention
   - no plans for ERCP
   - cover with zosyn for now
   - blood cx
   .
   # LLL HAP- also course c/b aspiration during intubation today
   - zosyn/vanco to cover gram +, gram-, anaerobes, MRSA
   - sputum 1+ yeast
   - monitor for ARDS
   - check ABG this AM on SBT, plan to liberate from ventilator given no
   planned procedure and CXR improved off IVF
   .
   # Respiratory failure- in setting pneumonia, intubation c/b witnessed
   aspiration
   - low TV
   - CXR improved off IVF
   - RSBI 67
   - SBT now with plan to extubate if feasible
   .
   # Coffee ground emesis- after traumatic intubation
   - monitor HCT 30 (35), no signs active GIB
   - PPI
   .
   # Hypocalcemia- stable
   - monitor
   .
   # ETOH abuse- admits to 3-4 beers/daily
   - CIWA
   .
   # FEN: IVF, replete electrolytes, NPO, TPN
   .
   # Prophylaxis: pneumoboots, VAP bundle, PPI
   ICU Care
   Nutrition:
   Comments: TPN
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-4-13**] 12:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2141-04-14 08:00:00 Physician Resident Progress Note
Chief Complaint: Acute pancreatitis
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2141-4-13**] 03:13 PM
   [**2141-4-13**]:
   Extubated
   Mildly delirious post extubation, improved overnight
   Surgery recommended supportive care
   GI: possible ERCP this admission once improves clinically
   Started on clears
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2141-4-12**] 03:38 PM
   Piperacillin - [**2141-4-12**] 04:57 PM
   Vancomycin - [**2141-4-13**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-4-14**] 07:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-13**] 08:00 AM
   Morphine Sulfate - [**2141-4-14**] 05:30 AM
   Heparin Sodium (Prophylaxis) - [**2141-4-14**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-14**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.7
   HR: 105 (96 - 116) bpm
   BP: 132/79(88) {103/52(64) - 132/79(88)} mmHg
   RR: 21 (15 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,092 mL
                                                                    635 mL
   PO:
                                                                    480 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,552 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  1,706 mL
                                                                  1,780 mL
   Urine:
                                                                  1,696 mL
                                                                  1,780 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    386 mL
                                                                 -1,145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 603 (603 - 603) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 10.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   10.4 g/dL
   102 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.3 mEq/L
   5 mg/dL
   103 mEq/L
   137 mEq/L
   28.5 %
   12.3 K/uL
        [image002.jpg]
                             [**2141-4-12**]  01:29 AM
                             [**2141-4-12**]  08:03 AM
                             [**2141-4-12**]  03:02 PM
                             [**2141-4-13**]  03:10 AM
                             [**2141-4-13**]  05:22 PM
                             [**2141-4-14**]  04:09 AM
   WBC
   10.6
   12.3
   10.8
   12.5
   12.3
   Hct
   35.5
   32.8
   30.8
   30.5
   28.5
   Plt
   187
   189
   211
   257
   273
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   22
   Glucose
   92
   81
   92
   102
   Other labs: PT / PTT / INR:15.3/31.5/1.3, ALT / AST:28/46, Alk Phos / T
   Bili:52/1.0, Amylase / Lipase:118/50, Differential-Neuts:89.1 %,
   Lymph:6.6 %, Mono:3.3 %, Eos:0.7 %, Albumin:2.1 g/dL, LDH:294 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Microbiology: YEAST.    MODERATE GROWTH.
   in sputum
   Assessment and Plan
 DIARRHEA
 DEPRESSION
 .H/O ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 PNEUMONIA, OTHER
   44 F with acute pancreatitis [**2-13**] ETOH vs stone with course c/b
   aspiration and volume overload s/p intubation for tachypnea transferred
   for further workup pancreatitis involving possible ERCP
   .
   # Acute pancreatitis- likely [**2-13**] ETOH vs stone seen at the ampulla of
   vater.  Review of MRCP from [**4-10**] showed stone at the ampulla, non
   obstructing without biliary or pancreatic duct dilation with
   amylase/lipase trending down.   No plan for ERCP at this time as no
   evidence of obstruction.  She did not require IVF overnight.
   - advance diet as tolerated
   -appreciate ERCP recs, may scope later on
   -appreciate surgery reccs
 no plan for intervention
   - surgery following- no intervention
   .
   # Respiratory
 likely [**2-13**] combination of aspiration
   pneumonitis/pneumonia in addition to pleural effusions.  Extubated
   yesterday.
   -diurese with lasix today, goal 1 liter
   -continue vanc/zosyn for HAP/ASP PNA
   -follow up sputum cx- yeast
   - repeat CXR PA and Lat in AM to evaluate
   .
   # Anemia- will monitor, no signs active bleeding, guiac negative
   - continue PPI, switch to oral
   - check iron panel
   .
   # Diarrhea- possible [**2-13**] prolonged NPO status and recent re-feeding,
   also need to r/o c.diff given hopitalization and multiple antibiotics
   - c.diff pending
   .
   #ETOH Abuse
 8 days since last ETOH, no CIWA necessary, no signs of
   withdrawal
   .
   #FEN
 repleted lytes, PM lytes
   .
   # Prophylaxis: heparin sq, PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-4-13**] 12:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor